US09447044B2
Step A: 2-chloro-4-hydroxy-benzaldehyde
After 2-chloro-4-hydroxy-benzonitrile (2 g, 0.013 mol) was dissolved in anhydrous THF (40 mL), DIBAL-H 1M hexane solution (21.7 mL, 0.032 mol) was added thereto at −78° C., and the mixture was stirred for 1 hour, and then stirred at room temperature for 2 hours. After the termination of the reaction, the reactant was added with 1M HCl at 0° C. and then extracted with EtOAc. The organic layer was separated, dried with MgSO4, and concentrated under reduced pressure to obtain the title compound, which was used in the next step without a separate purification process.

reactant | 2-chloro-4-hydroxy-benzonitrile | 0.013 mol, 2 g | ClC1=C(C#N)C=CC(=C1)O | C7H4ClNO
reactant | DIBAL-H | 0.032 mol, 1M, 21.7 mL | CC(C)C[AlH]CC(C)C
reactant | HCl | 1M | Cl | ClH
reactant | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-chloro-4-hydroxy-benzaldehyde | ClC1=C(C=O)C=CC(=C1)O | C7H5ClO2
